US07612114B2
N-Ethyl-N-[5-methoxy-2-(6-methoxy-1,2,3,4-tetrahydronaphthalen-2-yl)phenyl]-2-piperidin-1-ylacetamide
To a solution of 2-chloro-N-ethyl-N-[5-methoxy-2-(6-methoxy-1,2,3,4-tetrahydronaphthalen-2-yl)phenyl]acetamide (129 mg) in N,N-dimethylformamide (5 ml) were sequentially added piperidine (0.07 ml) and potassium carbonate (184 mg), and the solution was stirred overnight at 60° C. The solution was let to cool, then a saturated aqueous solution of sodium bicarbonate was added thereto, the solution was extracted with ethyl acetate, then washed with brine, dried over anhydrous potassium carbonate, and then the solvent was evaporated in vacuo. The residue was purified by silica gel column chromatography (hexane-ethyl acetate system) to provide the title compound (139 mg).

reactant | 2-chloro-N-ethyl-N-[5-methoxy-2-(6-methoxy-1,2,3,4-tetrahydronaphthalen-2-yl)phenyl]acetamide | 129 mg | ClCC(=O)N(C1=C(C=CC(=C1)OC)C1CC2=CC=C(C=C2CC1)OC)CC | C22H26ClNO3
reactant | piperidine | 0.07 ml | N1CCCCC1 | C5H11N
reactant | potassium carbonate | 184 mg | C([O-])([O-])=O.[K+].[K+]
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | N-Ethyl-N-[5-methoxy-2-(6-methoxy-1,2,3,4-tetrahydronaphthalen-2-yl)phenyl]-2-piperidin-1-ylacetamide | 139 mg | C(C)N(C(CN1CCCCC1)=O)C1=C(C=CC(=C1)OC)C1CC2=CC=C(C=C2CC1)OC | C27H36N2O3
